US05023275
To a suspension of 58.2 g (0.15 mol) of N,N'-bis-benzyl-3,3'-dithiodipropionamide in 500 ml of ethylene dichloride at 10-15° C. was added dropwise 63.6 g (0.473 mol) of sulfuryl chloride. A clear, light amber solution resulted. After stirring overnight, the solution was concentrated to give about one half volume. Cream-colored solid separated and was collected by filtration, yielding 36.1 g of 2-benzyl-4-isothiazolin-3-one hydrochloride salt; 1.5 g of additional solid separated in the filtrate but proved to be starting material. The filtrate was further evaporated to a brown oil. The oil was redissolved in benzene, treated with decolorizing carbon, and evaporated once again. The resulting light amber oil solidified on standing. This light tan solid was recrystallized from heptane giving 8.0 g(12% yield) of white crystals of 2-benzyl-5-chloro-4-isothiazolin-3-one hydrochloride salt whose m.p. was 58°-59° C. The hydrochloride of the unchlorinated benzyl compound was converted to free base by trituration with water and was dried under vacuum to give 27.0 g (47% yield) of the 2-benzyl-4-isothiazolin-3-one intermediate, m.p.=78°-80° C.

reactant | N,N'-bis-benzyl-3,3'-dithiodipropionamide | 0.15 mol, 58.2 g | C(C1=CC=CC=C1)NC(CCSSCCC(=O)NCC1=CC=CC=C1)=O | C20H24N2O2S2
reactant | sulfuryl chloride | 0.473 mol, 63.6 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | ethylene dichloride | 500 ml | C(CCl)Cl | C2H4Cl2
product | 2-benzyl-4-isothiazolin-3-one hydrochloride salt | 36.1 g | Cl.C(C1=CC=CC=C1)N1SC=CC1=O | InChI=1S/C10H9NOS.ClH/c12-10-6-7-13-11(10)8-9-4-2-1-3-5-9;/h1-7H,8H2;1H
